US09376700B2
(S)-cyanomethyl 2-((tert-butoxycarbonyl)amino)-4-(methyldisulfanyl)butanoate (Boc-L-Hcm-OCH2CN, 1n)
Boc-L-Hcm-OH (43 mg, 153 μmol) was dissolved in THF (1 mL). To the solution were added chloroacetonitrile (484 μL, 7.65 mmol) and diisopropylamine (53 μL, 306 μmol). The mixture was stirred overnight under N2 atmosphere. After 18 h, additional chloroacetonitrile (484 L, 7.65 mmol) was added. Concentration under reduced pressure followed by flash chromatography over silica gel with AcOEt-Hexane (3:1) gave the titled compound in (31.3 mg, 63% yield): 1H NMR (360 MHz, CDCl3) δ 5.02 (s, 1H), 4.73 (dd, J=31.3 Hz, 2H) 4.49 (s, 1H), 2.77-2.73 (m, 2H), 2.37 (m, 3H), 2.37-2.27 (m, 1H), 2.13-2.02 (m, 1H), 1.46 (s, 9H); LRMS (ESI) m/z calcd for C12H21N2O4S2 (M+H)+ 321.1. found 321.0.

reactant | (S)-2-((tert-butoxycarbonyl)amino)-4-(methyldisulfanyl)butanoic acid | 153 μmol, 43 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCSSC | C10H19NO4S2
reactant | chloroacetonitrile | 7.65 mmol, 484 μL | ClCC#N | C2H2ClN
reactant | diisopropylamine | 306 μmol, 53 μL | C(C)(C)NC(C)C | C6H15N
reactant | chloroacetonitrile | 7.65 mmol, 484 L | ClCC#N | C2H2ClN
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-cyanomethyl 2-((tert-butoxycarbonyl)amino)-4-(methyldisulfanyl)butanoate | 63% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC#N)CCSSC | C12H20N2O4S2
